US05403930
4-Iodo-N-(2-pyridinyl)benzenesulfonamide
4-Iodo-benzenesulfonyl chloride, (52.3 g, 0.17 mol) was dissolved in dichloromethane (300 ml) and 2-aminopyridine (65 g, 0.69 mol) was added. The solution was stirred at room temperature for 3 days, washed with 2M sulfuric acid (2×200 ml) and water (100 ml), dried with Na2SO4 and evaporated to dryness. Yield 46.9 g (76%).

reactant | 4-Iodo-benzenesulfonyl chloride | 0.17 mol, 52.3 g | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
reactant | 2-aminopyridine | 0.69 mol, 65 g | NC1=NC=CC=C1 | C5H6N2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4-Iodo-N-(2-pyridinyl)benzenesulfonamide | IC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1 | C11H9IN2O2S
